US04348530
99.4 g (0.3 mol) of 3-phenylthiophthalic acid N-phenylimide are suspended in 1,326 ml of a 20% sodium hydroxide solution and the suspension is heated at 100° C. for 30 minutes, with stirring. After cooling, the alkaline suspension is acidified with 672 ml of 37% hydrochloric acid, with stirring. After one hour the fine suspension is filtered with suction, the material on the suction filter is suspended, whilst till wet, in 882 ml of 37% hydrochloric acid and the suspension is refluxed for one hour. The reaction mixture is cooled, the resulting fine suspension is filtered with suction and the product is dried at 80° C./13,000 Pa. 69.4 g (85 of theory) of 3-phenylthiophthalic acid are obtained.

reactant | 3-phenylthiophthalic acid N-phenylimide | 0.3 mol, 99.4 g | C1(=CC=CC=C1)N=C(C=1C(C(=S)O)=CC=CC1C1=CC=CC=C1)O | C20H15NO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 672 ml | Cl | ClH
product | 3-phenylthiophthalic acid | 69.4 g | C1(=CC=CC=C1)C1=C(C(C(=S)O)=CC=C1)C(=O)O | C14H10O3S
